US07834041B2
(2S,4S)-4-(2-Hydroxycarbamoyl-4-methylpentanoylamino)-1-{pentyl[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid
(2S,4S)-4-[2-(2,2-Dimethylpropionyloxycarbamoyl)-4-methylpentanoylamino]-1-{pentyl[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic acid methyl ester (2.2 g, 3 mmol) was dissolved in MeOH (20 mL). An aqueous solution of NaOH (1M, 10 ml; 10M, 1 mL) was added, and the mixture was stirred at room temperature for 15 minutes. The solution was acidified with HCl and extracted (EtOAc, 2×50 mL). The combined organics were washed with saturated aqueous NaCl (50 mL), dried over Na2SO4, and the solvent evaporated. The residue was purified by reverse phase preparative HPLC (twice) to afford the title compound (657 mg, 1.03 mmol). MS m/z: [M+H]+ calcd for C32H42N8O6, 634.7. found 635.3.

reactant | (2S,4S)-4-[2-(2,2-Dimethylpropionyloxycarbamoyl)-4-methylpentanoylamino]-1-{pentyl[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic acid methyl ester | 3 mmol, 2.2 g | COC(=O)[C@H]1N(C[C@H](C1)NC(C(CC(C)C)C(NOC(C(C)(C)C)=O)=O)=O)C(N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCCC)=O | C38H52N8O7
reactant | NaOH | 1M, 10 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | (2S,4S)-4-(2-Hydroxycarbamoyl-4-methylpentanoylamino)-1-{pentyl[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid | 1.03 mmol, 657 mg | ONC(=O)C(C(=O)N[C@H]1C[C@H](N(C1)C(N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCCC)=O)C(=O)O)CC(C)C | C32H42N8O6
